Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.53516223694
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[O:10][H:11],-0.2186390745499999
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-8.026621944910001
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],1.4110508869100002
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:12]([H:13])([H:14])[H:15],4.96995611591
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.562780614069999
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.94516979091
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.0005434116
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([C:4])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]1=[C:5][C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12],-3.61677366482
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],1.18438091694
[H:12].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.24451611596
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-2.9874190134500003
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-5.15219229296
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7]([H:8])[H:9],-1.4442652714200002
[O:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[H:12],6.878138144380001
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.85666489242
[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.43537852559
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]#[C:5][H:6].[H:1][C:2]([C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])([H:7])[H:8],6.69254560619
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.363814695299999
[C:2]#[C:4][C:7]([H:8])([H:9])[H:10].[H:1][C:6]([H:3])=[C:5]>>[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.74043200829
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])=[O:9]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-3.37175013624
[H:1][O:2][C:3][C:4]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.12597005166
[H:12].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.99218872776
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],1.8945874214700005
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-7.603196391060001
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.70406530095
[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.1513947755
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9][H:10],4.36671928772
